US06914074B2
7-Hydroxy-3-(4-hydroxyphenyl)-1-naphthonitrile
The title compound was prepared by reacting 7-hydroxy-3-(4-methoxyphenyl)-1-naphthonitrile (0.14 g, 0.51 mmol) with pyridinium HCl (3 g) according to method B to yield 0.10 g (75%) of a white solid: mp 254-257° C.; 1H NMR (DMSO-d6): δ 6.89 (2H, d, J=8.53 Hz), 7.25 (1H, dd, J=2.15 Hz, J=8.88 Hz), 7.36 (1H, d, J=1.86 Hz), 7.67 (2H, d, J=8.55 Hz), 8.00 (1H, d, J=8.94 Hz), 8.31-8.38 (2H, m), 9.70 (1H, bs), 10.44 (1H, bs); MS (ESI) m/z260 (M−H)−.

reactant | 7-hydroxy-3-(4-methoxyphenyl)-1-naphthonitrile | 0.51 mmol, 0.14 g | OC1=CC=C2C=C(C=C(C2=C1)C#N)C1=CC=C(C=C1)OC | C18H13NO2
reactant | pyridinium HCl | 3 g | Cl.[NH+]1=CC=CC=C1
product | 7-Hydroxy-3-(4-hydroxyphenyl)-1-naphthonitrile | OC1=CC=C2C=C(C=C(C2=C1)C#N)C1=CC=C(C=C1)O | C17H11NO2
